US04857539
To a stirred solution of 6.6 ml diisopropylamine in 150 dry tetrahydrofuran at 0° C. under nitrogen was slowly added 18.4 ml (2.5 m) n-butyllithium. The mixture was cooled to -78° C., and 3.2 ml N-nitrosodimethylamine was then slowly added. The latter mixture was stirred for 30 min, and 6.0 g 5-[5-(2,6-dimethyl-4-cyanophenoxy)pentyl]-3-methylisoxazole in 33 ml dry tetrahydrofuran was added dropwise. The reaction mixture was stirred at -73° C. for 8.5 hours, and 3 ml glacial acetic acid in 10 ml tetrahydrofuran was then added. The reaction mixture was stirred overnight, then concentrated, and the residue dissolved in ethyl acetate. The solution was washed with water and saturated sodium chloride, dried over magnesium sulfate and concentrated to an oily residue. The latter was chromatographed on silica gel and eluted with ethyl acetate/hexane 60:40. The product was recrystallized from ethyl acetate/hexane to give 2.69 g 4-[3,5-dimethyl-4-{[5-(3-methyl-5-isoxazolyl)pentyl]oxy}phenyl]-1-methyl-1H-1,2,3-triazole, m.p. 117-118° C.

reactant | diisopropylamine | 6.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 18.4 ml | C(CCC)[Li]
reactant | N-nitrosodimethylamine | 3.2 ml | N(=O)N(C)C | C2H6N2O
reactant | 5-[5-(2,6-dimethyl-4-cyanophenoxy)pentyl]-3-methylisoxazole | 6.0 g | CC1=C(OCCCCCC2=CC(=NO2)C)C(=CC(=C1)C#N)C | C18H22N2O2
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 4-[3,5-dimethyl-4-{[5-(3-methyl-5-isoxazolyl)pentyl]oxy}phenyl]-1-methyl-1H-1,2,3-triazole | 2.69 g | CC=1C=C(C=C(C1OCCCCCC1=CC(=NO1)C)C)C=1N=NN(C1)C | C20H26N4O2
